US08609653B2
2-(tert-butoxy)-2-(4-(chroman-6-yl)-1-(2,5-difluorobenzyl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid
The title compound was prepared in a manner similar to that described in Example 27, Step H from methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate and 2,5-difluorobenzyl bromide. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.50-7.41 (m, 1 H), 7.23-7.17 (m, 1 H), 7.14 (t, J=3.4 Hz, 1 H), 7.06 (td, J=4.5, 9.3 Hz, 1 H), 7.01-6.92 (m, 3 H), 6.32 (dd, J=3.5, 11.3 Hz, 1 H), 5.64-5.53 (m, 3 H), 4.29 (t, J=4.6 Hz, 2 H), 2.96-2.80 (m, 2 H), 2.79 (s, 3 H), 2.09 (d, J=5.3 Hz, 2 H), 1.03-0.90 (s, 9H); LC/MS (m/z) ES+=521.36 (M+1).

reactant | methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate | C(C)(C)(C)OC(C(=O)OC)C=1C(=C2C(=NC1C)NC=C2)C=2C=C1CCCOC1=CC2 | C24H28N2O4
reactant | 2,5-difluorobenzyl bromide | FC1=C(CBr)C=C(C=C1)F | C7H5BrF2
product | 2-(tert-butoxy)-2-(4-(chroman-6-yl)-1-(2,5-difluorobenzyl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid | C(C)(C)(C)OC(C(=O)O)C=1C(=C2C(=NC1C)N(C=C2)CC2=C(C=CC(=C2)F)F)C=2C=C1CCCOC1=CC2 | C30H30F2N2O4
